US05883092
Synthesis of 4-t-butyl-N-[6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-2-(4-phenylpiperazinyl)-4-pyrimidinyl]benzenesulfonamide
The procedure described in Synthesis Example 3 was repeated by use of 4-t-butyl-N-[6-chloro-5-(2-methoxyphenoxy)-2-(4-phenylpiperazinyl)-4-pyrimidinyl]benzenesulfonamide and 1,3-propanediol, to thereby obtain the title compound as a pale yellow oil.

reactant | 4-t-butyl-N-[6-chloro-5-(2-methoxyphenoxy)-2-(4-phenylpiperazinyl)-4-pyrimidinyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)N1CCN(CC1)C1=CC=CC=C1 | C31H34ClN5O4S
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
product | 4-t-butyl-N-[6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-2-(4-phenylpiperazinyl)-4-pyrimidinyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCO)N1CCN(CC1)C1=CC=CC=C1 | C34H41N5O6S
